US07056917B2
(A) 8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
A mixture of methyl 8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido-[1,2-a]pyrimidine-3-carboxylate (400 mg), concentrated aqueous ammonia (6 ml) and methanol (9 ml) was stirred overnight. Insoluble solids were collected by filtration to obtain the title compound (117 mg). The reaction mixture was concentrated and the residue was purified by silica gel column chromatography to further obtain the title compound (69 mg).

reactant | methyl 8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido-[1,2-a]pyrimidine-3-carboxylate | 400 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=CN2)C(=O)OC)=O)C=C1 | C18H19N3O3S
reactant | ammonia | 6 ml | N | H3N
solvent | methanol | 9 ml | CO | CH4O
product | 8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 117 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=CN2)C(=O)N)=O)C=C1 | C17H18N4O2S
